US07314888B1
A solution of 0.68 g of 2-(3-ethoxy-3-oxopropyl)-4-{[1-isopentyl-4-(3-methylbutanoyl)-1H-pyrrol-2-yl]carbonyl}phenyl 3-methylbutanoate in 4 ml of tetrahydrofuran is dropwise added to a mixture of 14 ml of ethanol and 13 ml of 1 mol/L sodium hydroxide solution at 40-50° C., and the mixture thus obtained is stirred at the same temperature as above for one hour. Water and chloroform are added to the reaction mixture, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is dissolved in 14 ml of N,N-dimethylformamide, 0.89 g of potassium carbonate and 0.9 ml of isopentyl iodide are added, and the mixture thus obtained is stirred at 100° C. for 15 minutes. The reaction mixture cooled to ambient temperature is added to a mixture of ethyl acetate and water, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to obtain 0.69 g of isopentyl 3-[5-{[1-isopentyl-4-(3-methylbutanoyl)-1H-pyrrol-2-yl]carbonyl}-2-(isopentyloxy)phenyl]propanoate.

reactant | 2-(3-ethoxy-3-oxopropyl)-4-{[1-isopentyl-4-(3-methylbutanoyl)-1H-pyrrol-2-yl]carbonyl}phenyl 3-methylbutanoate | 0.68 g | CC(CC(=O)OC1=C(C=C(C=C1)C(=O)C=1N(C=C(C1)C(CC(C)C)=O)CCC(C)C)CCC(=O)OCC)C | C31H43NO6
reactant | sodium hydroxide | 1 mol/L, 13 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
reactant | potassium carbonate | 0.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopentyl iodide | 0.9 ml | C(CC(C)C)I | C5H11I
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | isopentyl 3-[5-{[1-isopentyl-4-(3-methylbutanoyl)-1H-pyrrol-2-yl]carbonyl}-2-(isopentyloxy)phenyl]propanoate | 0.69 g | C(CC(C)C)N1C(=CC(=C1)C(CC(C)C)=O)C(=O)C=1C=CC(=C(C1)CCC(=O)OCCC(C)C)OCCC(C)C | C34H51NO5
